US07329678B2
Using the procedure of step (b) in Example 15, utilizing 2-amino-5-(4-fluorophenyl)nicotinaldehyde and 4-fluoro-o-phenylenediamine gave 3-(6-fluoro-1H-benzimidazol-2-yl)-5-(4-fluorophenyl)-pyridin-2-amine.

reactant | 2-amino-5-(4-fluorophenyl)nicotinaldehyde | NC1=C(C=O)C=C(C=N1)C1=CC=C(C=C1)F | C12H9FN2O
reactant | 4-fluoro-o-phenylenediamine | FC1=CC(=C(C=C1)N)N | C6H7FN2
product | 3-(6-fluoro-1H-benzimidazol-2-yl)-5-(4-fluorophenyl)-pyridin-2-amine | FC=1C=CC2=C(NC(=N2)C=2C(=NC=C(C2)C2=CC=C(C=C2)F)N)C1 | C18H12F2N4
